US09359286B2
A solution of 4-bromophenylboronic acid (20 g, 100 mmol) in 1,4-dioxane (120 mL) was purged with nitrogen for 10 min. (R)-BINAP (0.992 g, 1.593 mmol) and bis(norbornadiene)rhodium (I) tetrafluoroborate (0.559 g, 1.494 mmol) were added sequentially, and the suspension was sonicated for 5 min. The mixture was stirred for 20 min. Water (20 mL) was added, and the reaction mixture became homogeneous. After 10 minutes, cyclopent-2-enone (8.06 mL, 100 mmol) was added, and the reaction mixture was stirred at room temperature overnight. HPLC and LCMS analysis indicated that the reaction had proceeded, but there was more starting material than product. The reaction mixture was filtered through a pad of CELITE®, and the CELITE® was washed with ethyl acetate (100 mL). The filtrate was diluted with an additional ethyl acetate (150 mL), washed with water (2×), washed with brine, and dried over anhydrous sodium sulfate. The product mixture was purified by flash silica gel chromatography using a mixture of ethyl acetate and hexane to give (R)-3-(4-bromophenyl)cyclopentanone (6.09 g, 25.5 mmol) as a white solid. The product was 98% pure by HPLC with a retention time=2.11 min.—(Condition J). LC/MS M+1=241 1H NMR (400 MHz, chloroform-d) δ 7.57-7.39 (m, 2H), 7.22-7.06 (m, 2H), 3.39 (ddd, J=10.9, 6.8, 4.1 Hz, 1H), 2.67 (dd, J=18.2, 7.4 Hz, 1H), 2.57-2.38 (m, 2H), 2.38-2.21 (m, 2H), 1.99-1.85 (m, 1H).

reactant | 4-bromophenylboronic acid | 100 mmol, 20 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | Water | 20 mL | O | H2O
reactant | cyclopent-2-enone | 100 mmol, 8.06 mL | C1(C=CCC1)=O | C5H6O
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | bis(norbornadiene)rhodium (I) tetrafluoroborate | 1.494 mmol, 0.559 g | [B-](F)(F)(F)F.C1C2C=CC1C=C2.C1C2C=CC1C=C2.[Rh]
catalyst | (R)-BINAP | 1.593 mmol, 0.992 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | (R)-3-(4-bromophenyl)cyclopentanone | 25.5 mmol, 6.09 g | BrC1=CC=C(C=C1)[C@H]1CC(CC1)=O | C11H11BrO
